US06458772B1
b) 4-(N-CBz-L-valyloxy)butyric acid chloromethyl ester
4-(N-CBz-L-valyloxy) butyric acid t-butyl ester (20 g, 50.8 mmole) was treated with trifluoroacetic acid (30 ml) at 0° C. for 3 h and then evaporated. The residue was coevaporated with toluene several time. The intermediate acid (2.56 g, 7.6 mmole) was dissolved in dioxane (10 ml) and to the solution was added tetrabutylammonium hydroxide (40%, 4.66 ml, 7.2 mmole). The solution was dried and dissolved in dichloromethane (20 ml) and then chloroiodomethane (10 ml, 144 mmole) was added to the solution. After 18 hr, the reaction solution was evaporated and the product was isolated with silica gel column chromatography. Yield 2.1 g.

reactant | 4-(N-CBz-L-valyloxy) butyric acid t-butyl ester | 50.8 mmole, 20 g | C(C)(C)(C)OC(CCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C21H31NO6
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetrabutylammonium hydroxide | 7.2 mmole, 4.66 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | chloroiodomethane | 144 mmole, 10 ml | ClCI | CH2ClI
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(N-CBz-L-valyloxy)butyric acid chloromethyl ester | ClCOC(CCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C18H24ClNO6
